US05098602
188.7 g (1.413 mol) of anhydrous aluminum chloride was added to 566 ml of 1,2-dichloro ethane, to which was added dropwise 161.5 g (1.682 mol) of benzene fluoride while holding temperature at 3°-5° C. The resulting mixture was added with 254.5 g (1.442 mol) of nonanoyl chloride over 2 hours and then reacted at 8° C. for 1 hour and at 8°-30° C. for 5 hours. The reaction solution was poured into 600 ml of concentrated hydrochloric acid containing 200 g of ice and extracted with 1.5 l of chloroform. The extract was washed with water and a 5% solution of sodium carbonate and dried on magnesium sulfate. After the solvent was distilled off, the residue was distilled under a reduced pressure (145°-150° C./5 mmHg) to obtain 292.2 g (yield: 86%) of 4-nonanoyl-benzene fluoride.

reactant | aluminum chloride | 1.413 mol, 188.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene fluoride | 1.682 mol, 161.5 g | [F-].C1=CC=CC=C1
reactant | nonanoyl chloride | 1.442 mol, 254.5 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
reactant | hydrochloric acid | 600 ml, 200 g | Cl | ClH
solvent | 1,2-dichloro ethane | 566 ml | ClCCCl | C2H4Cl2
product | 4-nonanoyl-benzene fluoride | 292.2 g, yield: 86% | [F-].C(CCCCCCCC)(=O)C1=CC=CC=C1 | InChI=1S/C15H22O.FH/c1-2-3-4-5-6-10-13-15(16)14-11-8-7-9-12-14;/h7-9,11-12H,2-6,10,13H2,1H3;1H/p-1
